US04238608
While a mixed solution of 0.462 g thiosalicylic acid and 0.6 g triethylamine in 8 ml of methylene chloride is cooled with ice, 0.4 g of N-chlorosuccinimide is added. The mixture is stirred for 5 minutes. Separately, a solution of 1 g 7-(4-chloro-3-oxobutyrylamino)-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid and 0.6 g triethylamine in 15 ml of methylene chloride is ice-cooled and the above reaction mixture is added at one time and stirred for 2 minutes. This reaction mixture is stirred vigorously with 3 ml of 50% phosphoric acid and 7 ml of saturated aqueous sodium chloride. The organic layer is taken and the water layer is extracted with ethyl acetate. The organic layers are combined and dried. The solvent is then distilled off under reduced pressure and the residue is stirred with ether. By the above procedure is obtained 7-[4-chloro-3-oxo-2-(2-carboxyphenylthio)butyrylamino]-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid as powders. Yield 1.4 g. IR (KBr, cm-1): 1770, 1700, 1590, 1520, 1380, 1230, 750 NMR (90 MHz, d6 -DMSO, δ): 2.67(s, thiadiazole--CH3), 3.40 & 3.67(ABq, J=18 Hz, 2--CH2), 4.17 & 4.52(ABq, J=13.5 Hz, 3--CH2), 4.48(s, ClCH2CO), 5.02(d, J=4.5 Hz, 6--H), 5.58(dd, J=4.5, 9.0 Hz, 7H), 8.67(d, J=9 Hz, CONH--)

reactant | thiosalicylic acid | 0.462 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | N-chlorosuccinimide | 0.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 7-(4-chloro-3-oxobutyrylamino)-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1 g | ClCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O)=O | C15H15ClN4O5S3
reactant | phosphoric acid | 3 ml | P(O)(O)(O)=O | H3O4P
reactant | sodium chloride | 7 ml | [Cl-].[Na+]
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
product | 7-[4-chloro-3-oxo-2-(2-carboxyphenylthio)butyrylamino]-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | ClCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O)SC1=C(C=CC=C1)C(=O)O)=O | C22H19ClN4O7S4
